US08357717B2
Stage (ii): (9-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methanone hydrochloride
Hydrogen chloride in methanol (2.3 ml, 2.82 mmol, 1.25 mol/l) was added at room temperature to a solution of tert-butyl 2-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate (280 mg, 0.564 mmol) in methanol (2 ml), and the reaction mixture was refluxed for 2 h. The solvent was removed in vacuo, the residue was taken up in a small amount of ethanol (3 ml), and diethyl ether (50 ml) was added thereto. Cooling was then carried out for 30 min. in an ice bath, and the resulting solid was filtered out, washed with diethyl ether and dried in vacuo. Yield: 180 mg (73%)

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 2-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate | 0.564 mmol, 280 mg | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C2=CC=3CN(CCC3S2)C(=O)OC(C)(C)C)CC1 | C27H36N4O3S
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 2.82 mmol, 1.25 mol/l, 2.3 ml | CO | CH4O
product | (9-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methanone hydrochloride | Cl.N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C2=CC=3CNCCC3S2)CC1 | InChI=1S/C22H28N4OS.ClH/c27-21(20-15-17-16-24-10-3-19(17)28-20)26-13-6-22(7-14-26)4-11-25(12-5-22)18-1-8-23-9-2-18;/h1-2,8-9,15,24H,3-7,10-14,16H2;1H
